US04026944
60 g (0.275 mol) of 1,5-dinitro naphthalene were suspended, in a 700 ml stirrer autoclave, in 340 ml of aniline and treated with 8 g of water-moist, 5% strength catalyst of palladium on activated charcoal, corresponding to 2.8 g of dry catalyst. Hydrogenation was performed at a temperature of about 100° C. and an initial hydrogen pressure of about 10 bars. As soon as the hydrogen pressure dropped to 5 bars, the hydrogen supply was stepped up until the original value of 10 bars was reattained. After 104 minutes the hydrogen uptake was finished and the reaction over. The catalyst was separated off at about 70° C. by filtration and the filtrate cooled to 20° C. whereupon 1,5-diamino naphthalene crystallized out. The crystallate was then filtered off and washed twice with 50 ml of methanol; 24 g of 1,5-diamino naphthalene were obtained with a m.p. of 189°-190° C.

reactant | 1,5-dinitro naphthalene | 0.275 mol, 60 g | [N+](=O)([O-])C1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C10H6N2O4
reactant | water | 8 g | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | aniline | 340 ml | NC1=CC=CC=C1 | C6H7N
catalyst | palladium on activated charcoal | [Pd] | Pd
product | 1,5-diamino naphthalene | 24 g | NC1=CC=CC2=C(C=CC=C12)N | C10H10N2
